US06417403B1
(S)-2,3-Dihydroxy-1-propylcarbamate benzyl ester (2.11 g, 0.01 mol) in 100 ml flask was dissolved in CHCl3 (30 ml). 1-Chlorocarbonyl-1-methylethylacetate (1.8 ml, 0.013 mol) was added and stirred for 3 hours at ambient temperature. Sat. aqueous solution of NaHCO3 (20 ml) was added and extracted three times with ethyl acetate (50 ml). The organic layer was evaporated and dissolved in THF (50 ml). Sodium methoxide (0.53 g, 0.01 mol) was added and stirred for 6 hours. Sat. aqueous solution of NaHCO3 (50 ml) was added and extracted with ethyl acetate (50 ml). The organic layer was dried over anhydrous MgSO4 and evaporated to dryness. The crude product was purified by column chromatography on silica gel to give (S)-2,3-epoxy-1-propylcarbamate benzyl ester (90%, optical purity>99%ee).

reactant | (S)-2,3-Dihydroxy-1-propylcarbamate benzyl ester | 0.01 mol, 2.11 g | C(C1=CC=CC=C1)OC(NC[C@@H](CO)O)=O | C11H15NO4
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
reactant | Sodium methoxide | 0.01 mol, 0.53 g | C[O-].[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | (S)-2,3-epoxy-1-propylcarbamate benzyl ester | 90% | C(C1=CC=CC=C1)OC(NC[C@H]1CO1)=O | C11H13NO3
